US09403831B2
4-(3-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (25 mg, 0.04 mmol) was dissolved in CH2Cl2(5 ml), and then 4 N HCl in dioxane (1 ml) was added, followed by stirring at room temperature for 1 hour. After the reaction was completed, the reaction mixture was concentrated under reduced pressure, and then purified with ether, to give 6-(1-methyl-1H-pyrazol-4-yl)-1-((1-(5-(1-(piperidin-4-yl)-1H-pyrazol-3-yl)pyrimidin-2-yl)piperidin-3-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine hydrochloride (18 mg, 75%).

reactant | 4-(3-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.04 mmol, 25 mg | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)CC2CN(CCC2)C2=NC=C(C=N2)C2=NN(C=C2)C2CCN(CC2)C(=O)[O-]
reactant | HCl | 4 N | Cl | ClH
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 6-(1-methyl-1H-pyrazol-4-yl)-1-((1-(5-(1-(piperidin-4-yl)-1H-pyrazol-3-yl)pyrimidin-2-yl)piperidin-3-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine hydrochloride | 18 mg, 75% | Cl.CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)CC2CN(CCC2)C2=NC=C(C=N2)C2=NN(C=C2)C2CCNCC2 | InChI=1S/C26H31N13.ClH/c1-36-17-20(13-31-36)23-14-28-24-25(32-23)39(35-33-24)16-18-3-2-9-37(15-18)26-29-11-19(12-30-26)22-6-10-38(34-22)21-4-7-27-8-5-21;/h6,10-14,17-18,21,27H,2-5,7-9,15-16H2,1H3;1H
